US04563446
(E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol (0.4 g, 1.5 mmoles) was dissolved in methylene chloride (10 ml) and pyridine (0.4 ml) and acetic anhydride (0.2 ml) were added to the solution. The mixture was allowed to stand at room temperature for 18 hours and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography using ethyl acetate as the developing solvent to give 1-acetoxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene (0.4 g, 86%) (Compound I-19) as an oil.

reactant | (E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol | 1.5 mmoles, 0.4 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-acetoxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene | 0.4 g, 86% | C(C)(=O)OCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C20H23NO2
